US07625903B2
2-Amino-4-fluoro-N-methylbenzamide
A microwave vial was charged with 7-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione (750 mg, 4.14 mmol) and methyl amine 40% aqueous solution (19.8 mL, 22.8 mmol, 5.5 eq). The reaction was stirred and heated in the microwave for 6 min at 110° C. The aqueous solution was extracted with methylene chloride (3×). Organic layers were combined and washed with 5% NaHCO3 solution and brine, dried over sodium sulfate, then concentrated to give a pale yellow oil that was used without further purification (434 mg, 62% yield). MS: M(C8H9FN2O)=168.17, (M+H)+=169 and (M+H−NHMe)+=138.

reactant | 7-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione | 4.14 mmol, 750 mg | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | methyl amine | CN | CH5N
product | 2-Amino-4-fluoro-N-methylbenzamide | 62% yield | NC1=C(C(=O)NC)C=CC(=C1)F | C8H9FN2O
